US08609804B2
Inside a glove box, a 300 mL round-bottom flask equipped with a reflux condenser, stirring bar, and gas inlet was charged with anhydrous 2,5-dichlorobenzenesulfonic acid, sodium salt (24.9 g, 0.1 moles), activated copper bronze (12.7 g, 0.2 moles), and DMAc (100 mL). The mixture was heated to 150° C. overnight under nitrogen. The mixture was poured into water (1 L) and the solid removed by vacuum filtration. The filtrate was treated with sufficient sodium carbonate to precipitate residual copper salts, which were removed by vacuum filtration. The solution was evaporated and the residue dried at 150° C. under vacuum. The solids (29.75 g) were dissolved in a mixture of ethanol and water, acidified with acetic acid, filtered, and concentrated to give an oil. The oil was dissolved in ethanol (100 mL) and allowed to set overnight to give a copious white solid, which was collected by vacuum filtration and washed twice with ethanol. The solids were recrystallized twice from ethanol to give 10.05 g (47% yield) of 4,4′-dichlorobiphenyl-2,2′-disulfonic acid, sodium salt. 1H NMR (DMSO-d6): 7.30 (d, 8.2 Hz, 2H), 7.34 (dd, 8.2, 2.3 Hz, 2H), 7.82 (d, 2.2 Hz, 2H).

reactant | 2,5-dichlorobenzenesulfonic acid | ClC1=C(C=C(C=C1)Cl)S(=O)(=O)O | C6H4Cl2O3S
reactant | sodium | 0.1 moles, 24.9 g | [Na] | Na
reactant | DMAc | 100 mL | CC(=O)N(C)C | C4H9NO
reactant | water | 1 L | O | H2O
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | copper bronze | 0.2 moles, 12.7 g | [Cu] | Cu
product | 4,4′-dichlorobiphenyl-2,2′-disulfonic acid | 10.05 g, 47% yield | ClC=1C=C(C(=CC1)C=1C(=CC(=CC1)Cl)S(=O)(=O)O)S(=O)(=O)O | C12H8Cl2O6S2
